* source A
V_V1         N00617 0  
+PULSE -0.5 0.5 0 0 0 0.00005 0.0001
R_R1         N00623 N00678  100 TC=0,0 
C_C1         0 N00682  820p  TC=0,0 
L_L1         N00617 N00623  1m  
R_R2         N00678 N00682  2208.6 TC=0,0 
