* source B
V_V2         N00956 0 5
M_M1         N001382 N01076 N00184 N00184 Mbreakn  
+ L=2u  
+ W=50u         
M_M2         N001582 N01034 N00184 N00184 MbreakN  
+ L=2u  
+ W=50u         
M_M3         N00184 N00762 0 0 MbreakN  
+ L=2u  
+ W=100u         
V_V5         N00762 0 1.2
R_R1         N001382 N00956  5k TC=0,0 
R_R2         N001582 N00956  5k TC=0,0 
V_Vin         N01076 N01274 0Vdc
E_E1         N01034 N01274 N01076 N01274 -1
V_Vcm         N01274 0 2.2
